### PR TITLE
[Merged by Bors] - feat(Analysis/SpecialFunctions/Pow/Deriv): derivative of `c ^ f x`

### PR DESCRIPTION
**Pull request by tb65536**
This PR proves `deriv (fun x ↦ c ^ f x) = fun x ↦ log c * deriv f x * c ^ f x` for all `c : ℂ` (if `c = 0` then both sides are identically `0`).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean [hunk 1]
```diff
@@ -232,6 +232,15 @@ theorem HasDerivWithinAt.cpow_const (hf : HasDerivWithinAt f f' s x)
     HasDerivWithinAt (fun x => f x ^ c) (c * f x ^ (c - 1) * f') s x :=
   (Complex.hasStrictDerivAt_cpow_const h0).hasDerivAt.comp_hasDerivWithinAt x hf
 
+theorem Complex.deriv_const_cpow (hf : Differentiable ℂ f) (c : ℂ) :
+    deriv (fun x ↦ c ^ f x) = fun x ↦ c ^ f x * log c * deriv f x := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean]: Can we write it as `log c * deriv f x * c ^ f x` to match `deriv_const_rpow`?

**Review by j-loreaux — COMMENTED** [review]
Other than that I'm content with this.

bors d+

File: Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean [hunk 2]
```diff
@@ -232,6 +232,16 @@ theorem HasDerivWithinAt.cpow_const (hf : HasDerivWithinAt f f' s x)
     HasDerivWithinAt (fun x => f x ^ c) (c * f x ^ (c - 1) * f') s x :=
   (Complex.hasStrictDerivAt_cpow_const h0).hasDerivAt.comp_hasDerivWithinAt x hf
 
+theorem Complex.deriv_const_cpow (hf : Differentiable ℂ f) (c : ℂ) :
+    deriv (fun x ↦ c ^ f x) = fun x ↦ log c * deriv f x * c ^ f x := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean]:
```suggestion
theorem Complex.deriv_fun_const_cpow (hf : Differentiable ℂ f) (c : ℂ) :
    deriv (fun x ↦ c ^ f x) x = log c * deriv f x * c ^ f x := by
```
to match `deriv_fun_pow`

**Review by eric-wieser — COMMENTED** [review]
Could you add the `derivWithin` version too?

**Comment by tb65536** [comment]
Removed the delegate since the PR has now changed substantially.

File: Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean [hunk 3]
```diff
@@ -232,6 +232,24 @@ theorem HasDerivWithinAt.cpow_const (hf : HasDerivWithinAt f f' s x)
     HasDerivWithinAt (fun x => f x ^ c) (c * f x ^ (c - 1) * f') s x :=
   (Complex.hasStrictDerivAt_cpow_const h0).hasDerivAt.comp_hasDerivWithinAt x hf
 
+theorem Complex.derivWithin_const_cpow (hf : DifferentiableWithinAt ℂ f s x) (c : ℂ) :
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean:235]:
```suggestion
theorem Complex.derivWithin_fun_const_cpow (hf : DifferentiableWithinAt ℂ f s x) (c : ℂ) :
```
I think

File: Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean [hunk 4]
```diff
@@ -712,10 +730,13 @@ theorem HasDerivAt.const_rpow (ha : 0 < a) (hf : HasDerivAt f f' x) :
   rw [← hasDerivWithinAt_univ] at *
   exact hf.const_rpow ha
 
-theorem derivWithin_const_rpow (ha : 0 < a) (hf : DifferentiableWithinAt ℝ f s x)
-    (hxs : UniqueDiffWithinAt ℝ s x) :
-    derivWithin (a ^ f ·) s x = Real.log a * derivWithin f s x * a ^ f x :=
-  (hf.hasDerivWithinAt.const_rpow ha).derivWithin hxs
+theorem derivWithin_const_rpow (ha : 0 < a) (hf : DifferentiableWithinAt ℝ f s x) :
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Pow/Deriv.lean:733]:
```suggestion
theorem derivWithin_fun_const_rpow (ha : 0 < a) (hf : DifferentiableWithinAt ℝ f s x) :
```
(and renaming the lemma above) though maybe @fpvandoorn remembers whether the `fun` rule is required all the time or only in the case of ambiguity.

**Review by eric-wieser — APPROVED** [review]
Just the question of whether all or none of these should use `_fun_` in their names to indicate the lambda. In this case I suppose the non-`fun` versions can't exist, which makes this more of a gray area.

**Comment by fpvandoorn** [comment]
From naming conventions:

> If one needs to distinguish between them, statements involving the first unexpanded form are written using just mul, while statements using the second expanded form should instead use fun_mul. If there is no need to disambiguate because a lemma is given using only the expanded form, the prefix fun_ is not required.

So it's not mandatory.
